US04198428
3-Methyl-thiobenzoic acid thiocyanomethyl ester
10 g (0.052 mol) of the K salt of 3-methyl-thiobenzoic acid and 5.6 g (0.05 mol) of chloromethyl thiocyanate were reacted and processed as in Example 1 B. 9.9 g of an oily liquid having a density of 1.27 (this corresponds to a yield of 79% of the theoretical conversion).

reactant | 3-methyl-thiobenzoic acid | CC=1C=C(C(=S)O)C=CC1 | C8H8OS
reactant | chloromethyl thiocyanate | 0.05 mol, 5.6 g | ClCSC#N | C2H2ClNS
product | 3-Methyl-thiobenzoic acid thiocyanomethyl ester | yield of 79% | S(C#N)COC(C1=CC(=CC=C1)C)=S | C10H9NOS2
